US07745438B2
Toluene-4-sulfonic acid 2-(S)-hydroxy-5-methylhexyl ester
Add dropwise over 5 minutes isobutylmagnesium bromide (4.4 mL, 8.8 mmol, 2 M in diethyl ether) to a solution of lithium tetrachlorocuprate (4.4 mL, 0.44 mmol, 0.1 M in tetrahydrofuran) cooled to −35-40° C. Dissolve (2S)-(+)-glycidyl tosylate (1.674 g, 7.73 mmol) in tetrahydrofuran (8 mL), cool to −40° C. and cannulate into the stirring Grignard reaction flask. Quench with saturated aqueous ammonium chloride (25 mL), pour supernate into saturated aqueous ammonium chloride (25 mL) and water and shake well. Wash with saturated aqueous sodium chloride, dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 10:90 to 25:75 ethyl acetate:hexanes) to give the desired compound (1.6711 g, 75%).

reactant | isobutylmagnesium bromide | 8.8 mmol, 2 M, 4.4 mL | C(C(C)C)[Mg]Br
reactant | (2S)-(+)-glycidyl tosylate | 7.73 mmol, 1.674 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]2CO2 | C10H12O4S
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | Toluene-4-sulfonic acid 2-(S)-hydroxy-5-methylhexyl ester | 1.6711 g, 75% | O[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)CCC(C)C | C14H22O4S
